US05700822
A mixture of 20 grams of 3-ethoxyl-4-hydroxybenzaldhyde and 13 grams of methyl cyanoacetate in 100 ml of ethanol was refluxed with 1 ml of piperidine for 4 hours. The crude mixture was allowed to cool down to room temperature and, with stirring, water was added until the solid began to form. This mixture was then refrigerated for 4 hours and solids was collected by suction filtration, washed with a cold mixture of ethanol and water (1:2) and suction dried to provide 25 grams of 1-cyano-2-(3-ethoxy-4-hydroxyphenyl)-1-methoxycarbonyl ethene.

reactant | 3-ethoxyl-4-hydroxybenzaldhyde | 20 grams | O(CC)C=1C=C(C=O)C=CC1O | C9H10O3
reactant | methyl cyanoacetate | 13 grams | C(#N)CC(=O)OC | C4H5NO2
reactant | piperidine | 1 ml | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-cyano-2-(3-ethoxy-4-hydroxyphenyl)-1-methoxycarbonyl ethene | 25 grams | C(#N)C(=CC1=CC(=C(C=C1)O)OCC)C(=O)OC | C13H13NO4
